US06184225B2
A mixture of tin(IV)chloride (1 9.3 ml) and 69.5% nitric acid (10.3 ml) in methylene chloride (140 ml) was added dropwise to a solution of N-(4-methoxy-2-methylphenyl)acetamide (28 g, 0.14 mol) in methylene chloride (500 ml) cooled to and maintained at −30° C. The reaction mixture was stirred at −30° C. for 1.5 hours, allowed to warm to ambient temperature then poured on to ice/water. The organic layer was separated and the aqueous layer extracted with ethyl acetate. The combined extracts were dried (MgSO4), the solvent removed by evaporation and the residue purified by column chromatography eluting with petroleum ether/ethyl acetate (2/8) to give N-(4-methoxy-2-methyl-5-nitrophenyl)acetamide (1 7.8 g, 51%)

reactant | tin(IV)chloride | 9.3 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | nitric acid | 10.3 ml | [N+](=O)(O)[O-] | HNO3
reactant | N-(4-methoxy-2-methylphenyl)acetamide | 0.14 mol, 28 g | COC1=CC(=C(C=C1)NC(C)=O)C | C10H13NO2
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-(4-methoxy-2-methyl-5-nitrophenyl)acetamide | 7.8 g, 51% | COC1=CC(=C(C=C1[N+](=O)[O-])NC(C)=O)C | C10H12N2O4
